US06933319B2
cis/trans-Methyl {4-[2,4-bis(methoxymethoxy)phenyl]cyclohexyl}acetate
To a round bottomed flask equipped with magnetic stirrer was added (±)-methyl {4-[2,4-bis(methoxymethoxy)phenyl]cyclohexylidene}acetate (1.13 g, 3.23 mmol) and ethanol (50 ml). To the stirred solution was added palladium (catalytic amount, 10% on activated carbon) in one portion. The reaction vessel was evacuated and placed under an atmosphere of hydrogen. This process was repeated for 10 cycles before leaving under a hydrogen atmosphere and then stirred vigorously for 17 hr. The reaction mixture was filtered through celite, washing with ethanol and the filtrate was evaporated to dryness, furnishing the title compound (1.13 g, 99%) as a colourless oil and a mixture of diastereoisomers. δH(CD3OD) 1.53 (2H, m), 1.62-1.78 (2H, m), 1.87 (4H, m), 2.93 (1H, m), 3.47 (3H, s), 3.51 (3H, s), 3.71 and 3.72 (3H, s), 5.16 and 5.17 (2H, s), 5.22 and 5.23 (2H, s), 6.66 and 6.68 (1H, d), 6.79 and 6.80 (1H, s), 7.12 and 7.15 (1H, d).

reactant | (±)-methyl {4-[2,4-bis(methoxymethoxy)phenyl]cyclohexylidene}acetate | 3.23 mmol, 1.13 g | COCOC1=C(C=CC(=C1)OCOC)C1CCC(CC1)=CC(=O)OC | C19H26O6
catalyst | palladium | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | trans-Methyl {4-[2,4-bis(methoxymethoxy)phenyl]cyclohexyl}acetate | 1.13 g, 99% | COCOC1=C(C=CC(=C1)OCOC)[C@@H]1CC[C@H](CC1)CC(=O)OC | C19H28O6
